US08491868B2
Synthesis of 4-(4-((2-fluoroethoxy)methyl)phenyl)piperazine-1-carboximidamide
To a solution of 1-(4((2-fluoroethoxy)methyl)-phenyl)piperazine hydrochloride (50 mg, 0.12 mmol) and diisopropylethylamine (67 μL, 0.38 mmol) in DMF (1 mL) was added 1H-pyrazole-1-carboximidamide hydrochloride (29 mg, 0.20 mmol). The reaction stirred at room temperature for 24 h. The next day, the reaction mixture was concentrated to yield a crude oil, which was purified via HPLC using a Phenomenex Luna C-18 (2) column (10μ, 250×21.2 mm, gradient method 15-55% B over 20 min., where B=90% ACN in water using 0.1% formic acid as a modifier and A=water using 0.1% formic acid as a modifier) with a flow rate of 20 mL/min afforded 4-(4-((2-fluoroethoxy)methyl)phenyl)piperazine-1-carboximidamide as a white solid (20 mg, 41% yield based on recovered starting material). 1H NMR (300 MHz, DMSO-d6): δ 7.58 (br s, 4H), 7.211 (d, 2H, J=8.5 Hz), 6.96 (d, 2H, J=8.6 Hz), 4.61 (m, 1H), 4.45 (m, 1H), 4.41 (s, 2H), 3.67 (m, 1H), 3.58 (dd, 4H, J=4.2, 3.9 Hz), 3.22 (m, 5H); 19F NMR (282.4 MHz, DMSO-d6): δ−221.39 (m, 1F); 13C NMR (75.5 MHz, DMSO-d6): δ 156.1, 149.8, 128.9, 115.4, 84.1 (81.9), 71.8, 68.6 (68.4), 47.5, 44.7; HRMS calcd for C14H21FN4O: 281.177216 found 281.17720.

reactant | 1-(4((2-fluoroethoxy)methyl)-phenyl)piperazine hydrochloride | 0.12 mmol, 50 mg | Cl.FCCOCC1=CC=C(C=C1)N1CCNCC1
reactant | diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboximidamide hydrochloride | 0.20 mmol, 29 mg | Cl.N1(N=CC=C1)C(N)=N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(4-((2-fluoroethoxy)methyl)phenyl)piperazine-1-carboximidamide | 41% yield | FCCOCC1=CC=C(C=C1)N1CCN(CC1)C(N)=N | C14H21FN4O
